US07417047B2
Preparation of 2-Amino-5-[3-(2-fluoro-pyridin-3-yl)-phenyl]-3-methyl-5-(5-propionyl-thiophen-3-yl)-3,5-dihydro-imidazol-4-one
A mixture of 2-amino-5-[5-(2-ethyl-[1,3]dioxolan-2-yl)-thiophen-3-yl]-5-[3-(2-fluoro-pyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one (0.11 g, 0.23 mmol) in diethyl ether and 1 N HCl was heated at reflux temperature for 1 h, cooled to room temperature, diluted with methylene chloride and basified to pH 9 using 2 N sodium hydroxide. The phases were separated. The organic phase was washed with brine, dried over sodium sulfate and concentrated in vacuo. The resultant concentrate was freeze dried from 1:1 acetonitrile/water (4 mL) to afford the title compound as a white solid, 0.069 g (71% yield), mp 98-112° C.; 1H NMR (500 MHz, CDCl3) δ 8.19 (dt, J=4.7, 1.4 Hz, 1H), 7.85-7.81 (m, 1H), 7.78-7.69 (m, 3H), 7.61-7.55 (m, 1H), 7.52-7.48 (m, 1H), 7.43 (t, J=7.7 Hz, 1H), 7.29-7.23 (m, 1H), 3.12 (s, 3H), 2.88 (q, J=7.3 Hz, 2H), 1.17 (t, J=7.3 Hz, 3H); ESI MS m/z 423 [C22H19FN4O2S+H].

reactant | 2-amino-5-[5-(2-ethyl-[1,3]dioxolan-2-yl)-thiophen-3-yl]-5-[3-(2-fluoro-pyridin-3-yl)-phenyl]-3-methyl-3,5-dihydro-imidazol-4-one | 0.23 mmol, 0.11 g | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C1=CSC(=C1)C1(OCCO1)CC | C24H23FN4O3S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | HCl | 1 N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-5-[3-(2-fluoro-pyridin-3-yl)-phenyl]-3-methyl-5-(5-propionyl-thiophen-3-yl)-3,5-dihydro-imidazol-4-one | 71% yield | NC1=NC(C(N1C)=O)(C1=CSC(=C1)C(CC)=O)C1=CC(=CC=C1)C=1C(=NC=CC1)F | C22H19FN4O2S
